### PR TITLE
[Merged by Bors] - feat: generalize some lemmas using `withDensity_apply'`

### PR DESCRIPTION
**Pull request by RemyDegenne**
@sgouezel added a version of `withDensity_apply` that does not require measurability of the set if the measure is s-finite. This PR uses that result in other files of the library.

For results about `rnDeriv`, I put a prime on the version that assumes measurability of the set and no prime on the version for s-finite measures, as the second one should be the main use case.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Perhaps `withDensity_apply'` could also hold for countable sums of (sigma)-finite measures? That would require removing the `MeasurableSet` assumption in `sum_apply` (under some assumptions).

**Comment by sgouezel** [comment]
I've defined s-finite measures in #8405, and proved there that `withDensity_apply'` works for s-finite measures. Would it help for the applications you have in mind?

File: Mathlib/MeasureTheory/Decomposition/RadonNikodym.lean [hunk 1]
```diff
@@ -353,20 +365,24 @@ lemma set_integral_toReal_rnDeriv_le [SigmaFinite μ] {s : Set α} (hμs : μ s
...
-lemma set_integral_toReal_rnDeriv [SigmaFinite μ] [HaveLebesgueDecomposition μ ν]
+lemma set_integral_toReal_rnDeriv' [SigmaFinite μ] [HaveLebesgueDecomposition μ ν]
     (hμν : μ ≪ ν) {s : Set α} (hs : MeasurableSet s) :
     ∫ x in s, (μ.rnDeriv ν x).toReal ∂ν = (μ s).toReal := by
-  rw [set_integral_toReal_rnDeriv_eq_withDensity hs, Measure.withDensity_rnDeriv_eq _ _ hμν]
-#align measure_theory.measure.with_density_rn_deriv_to_real_eq MeasureTheory.Measure.set_integral_toReal_rnDeriv
+  rw [set_integral_toReal_rnDeriv_eq_withDensity' hs, Measure.withDensity_rnDeriv_eq _ _ hμν]
+#align measure_theory.measure.with_density_rn_deriv_to_real_eq MeasureTheory.Measure.set_integral_toReal_rnDeriv'
+
+lemma set_integral_toReal_rnDeriv [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) (s : Set α) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Decomposition/RadonNikodym.lean:379]: I did not replace `SigmaFinite ν` by `SFinite ν` here because then `HaveLebesgueDecomposition μ ν` cannot be inferred, which leads to this question: can the Lebesgue decomposition theorem be generalized to s-finite measures?
(if yes, let's not do it in this PR)

Comment (sgouezel) [reply Mathlib/MeasureTheory/Decomposition/RadonNikodym.lean:379]: Yes, many things hold for s-finite measures instead of sigma-finite (Fubini, for instance!). I'm not sure it's worth doing the change unless there are applications where it is useful to weaken some assumptions.

**Comment by sgouezel** [comment]
bors r+
Thanks!
